US07192968B2
(1R*,2S*)-N,N-Bis(tert-butoxycarbonyl)-4-[(1-ethoxycarbonyl)cyclopropan-1-yl]amino-1,2-cyclohexanediamine (Stereoisomer A) (1.34 g) was dissolved in dichloromethane (20 ml), a saturated ethanol solution (20 ml) of hydrochloric acid was added, and the mixture was stirred for 90 minutes. The solvent was distilled off under reduced pressure to obtain (1R*,2S*)-4-[(1-ethoxycarbonyl)cyclopropan-1-yl]amino-1,2-cyclohexanediamine hydrochloride (Stereoisomer A) (1.07 g) as a colorless solid.

reactant | (1R*,2S*)-N,N-Bis(tert-butoxycarbonyl)-4-[(1-ethoxycarbonyl)cyclopropan-1-yl]amino-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N([C@H]1[C@H](CC(CC1)NC1(CC1)C(=O)OCC)N)C(=O)OC(C)(C)C | C22H39N3O6
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (1R*,2S*)-4-[(1-ethoxycarbonyl)cyclopropan-1-yl]amino-1,2-cyclohexanediamine hydrochloride | Cl.C(C)OC(=O)C1(CC1)NC1C[C@@H]([C@@H](CC1)N)N | InChI=1S/C12H23N3O2.ClH/c1-2-17-11(16)12(5-6-12)15-8-3-4-9(13)10(14)7-8;/h8-10,15H,2-7,13-14H2,1H3;1H/t8?,9-,10+;/m1./s1
